US08008303B2
3-Amino-4-trifluoromethoxybenzoic acid
A solution of 3-nitro-4-trifluoromethoxybenzoic acid (3 g) in methanol (240 ml) was hydrogenated at 50° C. and 50 bar using H-cube apparatus. The methanol solution was evaporated giving the title compound as a white solid (2.58 g).

reactant | 3-nitro-4-trifluoromethoxybenzoic acid | 3 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H4F3NO5
solvent | methanol | 240 ml | CO | CH4O
product | 3-Amino-4-trifluoromethoxybenzoic acid | 2.58 g | NC=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H6F3NO3
